US05439917
Preparation of 3-(cyanomethyl)-5-fluoro-2-methyl-7-phenacylpyrrolo[2,3-b]pyridine hydrobromide
A mixture of 3- (cyanomethyl)-5-fluoro-2-methylpyrrolo [2,3-b]pyridine (0.28 g, 1.5 mmol) and phenacyl bromide 0.32 g, 1.6 mmol) in acetonitrile (5 ml) was refluxed under argon for 3 h, during which time the initial solution was transformed into a suspension. Then the suspension was cooled in an ice bath, filtered and washed with diethyl ether (2×2 ml). The crystalline product was purified by recrystallization from hot acetonitrile to give 0.52 g (90% ) of the title compound.

reactant | 3- (cyanomethyl)-5-fluoro-2-methylpyrrolo [2,3-b]pyridine | 1.5 mmol, 0.28 g | C(#N)CC1=C(NC2=NC=C(C=C21)F)C | C10H8FN3
reactant | phenacyl bromide | 1.6 mmol, 0.32 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-(cyanomethyl)-5-fluoro-2-methyl-7-phenacylpyrrolo[2,3-b]pyridine hydrobromide | 0.52 g, 90% | Br.C(#N)CC1=C(N=C2N(C=C(C=C21)F)CC(=O)C2=CC=CC=C2)C | InChI=1S/C18H14FN3O.BrH/c1-12-15(7-8-20)16-9-14(19)10-22(18(16)21-12)11-17(23)13-5-3-2-4-6-13;/h2-6,9-10H,7,11H2,1H3;1H
